US06949542B2
(RS)-3-Oxo-3-{3-[2-(tetrahydro-pyran-2-yloxymethyl)-pyridin-4-yl]-phenyl}-propionic acid tert-butyl ester
Reaction of (RS)-3-[2-(tetrahydro-pyran-2-yloxymethyl)-pyridin-4-yl]-benzoic acid methyl ester with tert-butyl acetate according to general procedure K (method d; example K8) yielded the title compound as a light yellow oil.

reactant | (RS)-3-[2-(tetrahydro-pyran-2-yloxymethyl)-pyridin-4-yl]-benzoic acid methyl ester | COC(C1=CC(=CC=C1)C1=CC(=NC=C1)COC1OCCCC1)=O | C19H21NO4
reactant | tert-butyl acetate | C(C)(=O)OC(C)(C)C | C6H12O2
product | (RS)-3-Oxo-3-{3-[2-(tetrahydro-pyran-2-yloxymethyl)-pyridin-4-yl]-phenyl}-propionic acid tert-butyl ester | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)C1=CC(=NC=C1)COC1OCCCC1)=O)=O | C24H29NO5
